US07399759B2
tert-Butyl (E)-3-(2-pyridyl)-2-propenoate
Sodium hydride (60% oil, 0.6 g, 15.7 mmol) was washed with hexane and suspended in tetrahydrofuran (5 ml). To the mixture, a solution of tert-butyl diethylphosphinoacetate (2.5 g, 9.8 mmol) in tetrahydrofuran (2 ml) was added under ice cooling condition. The reaction mixture was stirred at room temperature for 30 minutes, cooled under ice cooling condition. A solution of 2-formylpyridine (1.0 g, 9.3 mmol) in tetrahydrofuran (3.0 ml) was added to the mixture, and the mixture was stirred at 0° C. for 1.5 hrs. The reaction mixture was combined with water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to a silica gel (60 g) column chromatography, and eluted with hexane-ethyl acetate (3:1, v/v) to give the titled compound (1.5 g, 77%).

reactant | Sodium hydride | 15.7 mmol, 0.6 g | [H-].[Na+]
reactant | tert-butyl diethylphosphinoacetate | 9.8 mmol, 2.5 g | C(C)P(CC)CC(=O)OC(C)(C)C | C10H21O2P
reactant | 2-formylpyridine | 9.3 mmol, 1.0 g | C(=O)C1=NC=CC=C1 | C6H5NO
reactant | water | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.0 ml | O1CCCC1 | C4H8O
product | tert-Butyl (E)-3-(2-pyridyl)-2-propenoate | 1.5 g, 77% | N1=C(C=CC=C1)/C=C/C(=O)OC(C)(C)C | C12H15NO2
